US05376649
Into a solution containing 6.7 g (0.01 moles) of tetrahexyl (dibromomethylene)bisphosphonate in 70 ml of abs. ethanol, 2.5 g of SnCl2 ×2H2O in 100 ml of water are added while stirring at 0° C. After the addition, the mixture is stirred for 15 minutes and extracted with chloroform and the extract is dried (MgSO4) and filtered. The filtrate is evaporated under a vacuum, whereby about 4.1 g (70% of the theor.) of tetrahexyl (monobromomethylene)bisphosponate (31P-NMR (CDCl3): δ 13.83 ppm) are obtained as a colourless oil, at a concentration of 90%.

reactant | tetrahexyl (dibromomethylene)bisphosphonate | 0.01 moles, 6.7 g | BrC(P(OCCCCCC)(OCCCCCC)=O)(P(OCCCCCC)(OCCCCCC)=O)Br | C25H52Br2O6P2
reactant | ethanol | C(C)O | C2H6O
reactant | SnCl2 | 2.5 g | Cl[Sn]Cl
solvent | water | 100 ml | O | H2O
product | tetrahexyl (monobromomethylene)bisphosponate | BrC(P(OCCCCCC)(OCCCCCC)=O)P(OCCCCCC)(OCCCCCC)=O | C25H53BrO6P2
